* AD4004 SPICE Macro-model
* ADI-SJ/HH
* This model simulates typical values at Vs=±15V
*
* Copyright 2012 by Analog Devices, Inc.
*
* Refer to "README.DOC" file for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* Node assignments
*          	       	non-inverting input
*          	       	 |   inverting input
*          	       	 |   |   positive supply
*          	      	 |   |   |     negative supply
*          	       	 |   |   |     |   output
*             	     |   |   |     |     |
.SUBCKT ADA4004   	 1   2   99    50    45
*
* INPUT STAGE & POLE
*
R3   5  99    5.0E+03
R4   6  99    5.0E+03
Cdm  1   2    4.0E-12
Ccm1 1  50    3.0E-12
Ccm2 2  50    3.0E-12
Ri2  5  5a    5.5E+03
Ci2  5a   6   1.9E-13
IOS  1   2    35E-09
EOS  9   1    POLY(3) (73 98) (229 98) (12 98) 60E-6  1 1 1
Q1   5   2  7  QNX
Q2   6   9  8  QNX
R5a   7   4   3.9E-6
R6a   8   4   3.9E-6
I1   4  50    500E-06
Din1   2   1    DZ
Din2   1   2    DZ
D101 50 1 DX
D102 50 2 DX
D103  1 99 DX
D104  2 99 DX
V1  91   50   2.2
D1  91   4   DX
GN1  2  50  15  98  1
GN2  1  50  18  98  1
*
* GAIN STAGE & DOMINANT POLE
*
G1   98 30    5  6  2.917E-03
R7   30 98    8.127E+05
C3   30 98    1.72E-09
*
V4   21 98      12.99;  Voh
D5   30 21     DX
V3   22 98     -12.823;  Vol
D6   22 30     DX
*
* POLE
*
R12  27 98     1E+01
C5   27 98     1E-10
G4   98 27     (30 98) 1E-01
*
*  zero
*
E1   28  98     (27 98)  1E6
R13  28 129     1E0
C6   28 129     5.0E-13
R14  129 98     1E-06
*
* POLE
*
G6a  98 32    (129 98)  1E-02
R16  32 98     1E+02
C7   32 98     7.4E-11
*
* VOLTAGE NOISE SOURCE WITH FLICKER NOISE
*
VN1  11  98   DC 2
DN1  11  12   DEN
DN2  12  13   DEN
VN2  98  13   DC 2
*
* CURRENT NOISE SOURCE WITH FLICKER NOISE
*
DN3  14  15   DIN
DN4  15  16   DIN
VN3  14  98   DC 2
VN4  98  16   DC 2
*
* SECOND CURRENT NOISE SOURCE
*
DN5  17  18   DIN
DN6  18  19   DIN
VN5  17  98   DC 2
VN6  98  19   DC 2
*
* COMMON-MODE GAIN NETWORK
*
E5a 98 72 POLY(2) (1,98) (2,98) 0 8.635E-02 8.635E-02
R10 72 73 8.377E+01
R20 73 98 7.958E-03
C10 72 73 1.00E-06
*
* PSRR
*
EPSY 219 98 POLY(1) (50,99) 2.993E+01 9.976E-01
RPS1 219 229 3.979E+02
RPS2 229 98  7.958E-03
CPS1 219 229 1.000E-06
*
R17  33 99     500E+03
R18  33 50     500E+03
EREF  98 0    33  0  1
GSY  99 50     POLY(1) 99 50 1.0853E-03 4.59E-06
*
* OUTPUT STAGE
*
R5   34 99     200
R6   34 50     200
G5   34 99     99 32  5.0E-3
G6   50 34     32 50  5.0E-3
*
V5   35 34     1.2; Voh Isc
D9   30 35     DX
V6   34 36     1.2; Vol Isc
D10  36 30     DX
L3   34 45     1E-8;  45 is output
*
G17  37 50     32 34  5.0E-3
G18  38 50     34 32  5.0E-3
D11  99 37     DX; xx
D12  99 38     DX; xx
D13  50 37     DY
D14  50 38     DY
*
* MODELS USED
*
.MODEL QNX NPN(BF=6.250E+03, VA=130)
.MODEL DX   D(IS=1E-16 BV=50)
.MODEL DY   D(IS=1E-16 BV=50)
.MODEL DZ   D(IS=1E-15 RS=1E2, BV=36)
.MODEL DEN  D(IS=1E-12, RS=1.729E+02, KF=1.87E-16, AF=1)
.MODEL DIN  D(IS=1E-12, RS=1.045E-4, KF=3.35E-15, AF=1)
*
.ENDS ADA4004
*
